US07612114B2
6-{2-[Ethyl(2-piperidin-1-ylethyl)amino]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2-piperidin-1-ylacetamide according to an analogous synthetic method to Example 337 described below, the total amount of ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl](2-piperidin-1-ylethyl)amine (108 mg) was used according to an analogous synthetic method to Example 111 described below to provide the title compound (84 mg).

reactant | N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2-piperidin-1-ylacetamide | C(C)N(C(CN1CCCCC1)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C27H36N2O3
reactant | ethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl](2-piperidin-1-ylethyl)amine | 108 mg | C(C)N(CCN1CCCCC1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C27H38N2O2
product | 6-{2-[Ethyl(2-piperidin-1-ylethyl)amino]-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 84 mg | C(C)N(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CCN1CCCCC1 | C25H34N2O2
